US09290451B2
d) 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid [1-methyl-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and 1-methyl-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-ethylamine as starting materials, MS (LC/MS): 373.0 (M+H).

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | 1-methyl-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-ethylamine | CC(C)(C1=NC(=NS1)C)N | C6H11N3S
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid [1-methyl-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-ethyl]-amide | CC(C)(C1=NC(=NS1)C)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C18H17ClN4OS
